### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Sites): API for hypercovers in subcanonical topologies

### PR DESCRIPTION
**Pull request by chrisflav**
After some import restructuring, we can remove some special cases for `Scheme`s in a follow-up PR.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Sites/Hypercover/One.lean [hunk 1]
```diff
@@ -622,4 +658,46 @@ end Cover
...
+lemma sieve₁'_toPreOneHypercover_eq_top {S : C} (E : PreZeroHypercover S) [E.HasPullbacks]
+    (i j : E.I₀) :
+    E.toPreOneHypercover.sieve₁' i j = ⊤ := by
+  rw [eq_top_iff]
+  intro Y f _
+  refine ⟨pullback (E.f i) (E.f j), f, 𝟙 _, ?_, by simp⟩
+  refine Presieve.ofArrows.mk' ⟨⟩ rfl ?_
+  apply pullback.hom_ext <;> simp [PreOneHypercover.toPullback]
+
+/-- If the pairwise pullbacks exist, this is the naive pre-`1`-hypercover where the covers
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Sites/Hypercover/One.lean]:
```suggestion
/-- If the pairwise pullbacks exist, this is the pre-`1`-hypercover where the covers
```

File: Mathlib/CategoryTheory/Sites/Hypercover/Subcanonical.lean [hunk 2]
```diff
@@ -0,0 +1,137 @@
...
+  · refine 𝒰.glueMorphisms (fun i ↦ inv (pullback.snd f (𝒰.f i)) ≫ pullback.fst _ _) fun i j ↦ ?_
+    let f := pullback.map (pullback.fst f (𝒰.f i) ≫ f) (𝒰.f j) (𝒰.f i) (𝒰.f j) (pullback.snd _ _)
+      (𝟙 _) (𝟙 _) (by simp [pullback.condition]) (by simp)
+    rw [← cancel_epi ((pullbackRightPullbackFstIso _ _ _).hom ≫ f)]
+    simp [pullback.condition, f]
+  · exact (𝒰.pullback₁ f).hom_ext fun i ↦ by simp [pullback.condition_assoc]
+  · exact 𝒰.hom_ext fun i ↦ by simp [pullback.condition]
+
+/--
+To show
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Sites/Hypercover/Subcanonical.lean]:
```suggestion
To show that
```

File: Mathlib/CategoryTheory/Sites/Hypercover/One.lean [hunk 3]
```diff
@@ -622,4 +658,46 @@ end Cover
 
 end GrothendieckTopology
 
+lemma PreZeroHypercover.ext_of_isSeparatedFor {P : Cᵒᵖ ⥤ Type*} {S : C} (E : PreZeroHypercover S)
+    (h : E.presieve₀.IsSeparatedFor P) {x y : P.obj (.op S)}
+    (hi : ∀ i, P.map (E.f i).op x = P.map (E.f i).op y) :
+    x = y :=
+  h.ext fun _ _ ⟨i⟩ ↦ hi i
+
+/-- If the pairwise pullbacks exist, this is the naive pre-`1`-hypercover where the covers
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Sites/Hypercover/One.lean]:
```suggestion
/-- If the pairwise pullbacks exist, this is the pre-`1`-hypercover where the covers
```
Feel free to ignore, but I feel that the word "naive" should be avoided in docstrings.

File: Mathlib/CategoryTheory/Sites/Hypercover/One.lean (hunk 1 above)
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Sites/Hypercover/One.lean]:
```suggestion
/-- If the pairwise pullbacks exist, this is the pre-`1`-hypercover where the covers
```

**Review by robin-carlier — COMMENTED** [review]
Only very minor documentation comments.
Thanks!

maintainer delegate.

**Comment by robin-carlier** [comment]
Whoops, you’re right!

maintainer merge
